US04496584
Synthesis of 6-amidino-2-naphthyl isovalerate (Compound No. 3)
To a solution of 1.8 g of isovaleric acid in 50 ml of anhydrous pyridine, while being cooled in ice, was added 4.4 g of DCC. After stirring for 30 minutes, 5.0 g of 6-amidino-2-naphthol methanesulfonate was added to the mixture and further stirred overnight at room temperature. The precipitate was collected by filtration, washed with a small volume of pyridine, then with acetone, and dissolved in methanol at room temperature. The insolubles were collected by filtration and washed with a small volume of methanol. The filtrate and the washings were concentrated under reduced pressure and admixed with ethyl ether. The precipitated crystals were recrystallized from an ethanol-methanol (9:1) mixture to yield 2.0 g of colorless flaky crystals of 6-amidino-2-naphthyl isovalerate methanesulfonate.

reactant | isovaleric acid | 1.8 g | C(CC(C)C)(=O)O | C5H10O2
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl isovalerate | 2.0 g | C(CC(C)C)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C16H18N2O2
